US06727264B1
2-METHYL-N-{3-[1-((3S)-3-{[(2-NITROANILINO)CARBONYL]AMINO}-3-PHENYLPROPYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure P and Scheme AB using 1-isocyanato-2-nitrobenzene and N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 543.6 (M+H)+.

reactant | 1-isocyanato-2-nitrobenzene | N(=C=O)C1=C(C=CC=C1)[N+](=O)[O-] | C7H4N2O3
reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
product | 2-METHYL-N-{3-[1-((3S)-3-{[(2-NITROANILINO)CARBONYL]AMINO}-3-PHENYLPROPYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC[C@@H](C1=CC=CC=C1)NC(=O)NC1=C(C=CC=C1)[N+](=O)[O-])C | C31H37N5O4
